US09029536B2
1-Ethyl-3-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-1H-pyrazolo[4,3-b]pyridine
A suspension of 3-[4-(1H-benzimidazol-2-yloxy)phenyl]-1-ethyl-1H-pyrazolo[4,3-b]pyridine (150 mg), MeI (0.039 mL), and K2CO3 (117 mg) in DMF (1.5 ml) was stirred overnight at 40° C. The reaction mixture was poured into water and extracted with AcOEt. The extract was washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was crystallized from hexane/AcOEt to give the title compound (128 mg).

reactant | 3-[4-(1H-benzimidazol-2-yloxy)phenyl]-1-ethyl-1H-pyrazolo[4,3-b]pyridine | 150 mg | N1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)C2=NN(C=1C2=NC=CC1)CC | C21H17N5O
reactant | MeI | 0.039 mL | CI | CH3I
reactant | K2CO3 | 117 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 1-Ethyl-3-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-1H-pyrazolo[4,3-b]pyridine | 128 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC1=C(N2C)C=CC=C1 | C22H19N5O
